US07977358B2
B] [5-Cyclopropyl-3-methyl-1-(4-trifluoromethoxy-phenyl)-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone A
The title compound was prepared from 5-Cyclopropyl-3-methyl-1-(4-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid and 4-pyrrolidin-1-yl-piperidine in direct analogy to the general procedure used in example 150. MS: 463.2 (MH+).

reactant | 5-Cyclopropyl-3-methyl-1-(4-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid | C1(CC1)C1=C(C(=NN1C1=CC=C(C=C1)OC(F)(F)F)C)C(=O)O | C15H13F3N2O3
reactant | 4-pyrrolidin-1-yl-piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
product | [5-Cyclopropyl-3-methyl-1-(4-trifluoromethoxy-phenyl)-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone | C1(CC1)C1=C(C(=NN1C1=CC=C(C=C1)OC(F)(F)F)C)C(=O)N1CCC(CC1)N1CCCC1 | C24H29F3N4O2
